US05780470
1-(6-methoxy-indan-1-yl)homopiperazine
Homopiperazine (30.6 g, 0.306 mol), 6-methoxy-indan-1-one (4.95 g, 30.56 mmol), titanium(IV) isopropoxide (17.9 ml, 60 mmol) and sodium borohydride (2.7 g, 71 mmol) were reacted by Method A to give the product (5.3 g, 70.5%). The crude product was used without purification.

reactant | Homopiperazine | 0.306 mol, 30.6 g | N1CCNCCC1 | C5H12N2
reactant | 6-methoxy-indan-1-one | 30.56 mmol, 4.95 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | sodium borohydride | 71 mmol, 2.7 g | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 60 mmol, 17.9 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(6-methoxy-indan-1-yl)homopiperazine | 5.3 g, 70.5% | COC1=CC=C2CCC(C2=C1)N1CCNCCC1 | C15H22N2O
